US08053440B2
A mixture of NaOH (1.8 g, 0.045 mol) and 4-hydroxy-3-methoxylbenzalde (3.10 g, 0.0203 mol) in water (20 mL) was mixed with bromoacetic acid (2.82 g, 0.0203 mol) and heated to reflux for 6 h. The reaction mixture was adjusted to pH 3.0 by adding a HCl solution. The solid was filtered off and further washed with cold water and ethyl acetate (2×30 mL) to yield (4-formyl-2-methyl-phenoxy)-acetic acid (2.89 g, 67.7%). 2-Amino-4,6-dimethoxybenzamide (150 mg, 0.764 mmol) with (4-formyl-2-methyl-phenoxy)-acetic acid (160 mg, 0.764 mmol), sodium hydrogen sulfite (150 mg, 58.5%) and p-toluenesulfonic acid monohydrate (15 mg) in N,N-dimethyl acetamide (10 mL) were heated to 150° C. for 16 h. N,N-dimethyl acetamide was removed under vacuum and the residue was poured into water (50 mL). The solid was filtered off and further purified by base/acid extractions/washes to yield 2-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2-methoxyphenoxy)acetic acid (25 mg, 8.1%). Selected data: MS (ES) m/z: 387.1; MP 275-277° C.

reactant | 2-Amino-4,6-dimethoxybenzamide | 0.764 mmol, 150 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | (4-formyl-2-methyl-phenoxy)-acetic acid | 0.764 mmol, 160 mg | C(=O)C1=CC(=C(OCC(=O)O)C=C1)C | C10H10O4
reactant | sodium hydrogen sulfite | 150 mg | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2-methoxyphenoxy)acetic acid | 25 mg, 8.1% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(OCC(=O)O)C=C1)OC)=O | C19H18N2O7
